US05925661
A) 4-Amino-5,6,7,8-tetrahydro-1-naphthalenesulphonic acid
A hot suspension of 20 g of sulphamic acid in 40 ml of N-methylpyrrolidone is added to a solution of 10 g of 5,6,7,8-tetrahydronaphthylamine in 100 ml of 1,2-dichlorobenzene. The mixture is heated with stirring for 7 hours at 150° C. The product is filtered off and washed with dichlorobenzene and then with toluene. The precipitate is resuspended in 70 ml of water and neutralized to pH 7 with 5.5 ml of 30% sodium hydroxide. The insoluble matter is filtered off and the aqueous phase is extracted with ether. The aqueous phase is adjusted to pH 5 by adding HCl, at 5° C.; the mixture is filtered, and the residue is washed with water and dried to obtain 7.5 g of the expected product.

reactant | sulphamic acid | 20 g | S(N)(O)(=O)=O | H3NO3S
reactant | 5,6,7,8-tetrahydronaphthylamine | 10 g | C1(=CC=CC=2CCCCC12)N | C10H13N
solvent | N-methylpyrrolidone | 40 ml | CN1C(CCC1)=O | C5H9NO
solvent | 1,2-dichlorobenzene | 100 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-Amino-5,6,7,8-tetrahydro-1-naphthalenesulphonic acid | 7.5 g | NC1=CC=C(C=2CCCCC12)S(=O)(=O)O | C10H13NO3S
